US06989402B1
3,5-Dibromo-4-(4-hydroxy-3-isopropylphenoxy)benzoyl sulfamide
3,5-Dibromo-4-(4-methoxy-3-isopropylphenoxy)benzoic acid (0.035 mmol) was coupled with sulfamide (0.175 mmol) using the method described in Example 58. Purification on HPLC of the residue gave 13 mg (73%) of the title compound.

reactant | 3,5-Dibromo-4-(4-methoxy-3-isopropylphenoxy)benzoic acid | 0.035 mmol | BrC=1C=C(C(=O)O)C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)Br | C17H16Br2O4
reactant | sulfamide | 0.175 mmol | S(=O)(=O)(N)N | H4N2O2S
product | 3,5-Dibromo-4-(4-hydroxy-3-isopropylphenoxy)benzoyl sulfamide | 13 mg, 73% | BrC=1C=C(C(=O)NS(=O)(=O)N)C=C(C1OC1=CC(=C(C=C1)O)C(C)C)Br | C16H16Br2N2O5S
